US07834043B2
ethyl(5S)-3-(4-bromobenzyl)-5-{(1S)-1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-2-oxotetrahydro-3-furancarboxylate
A solution of tert-Butyl(1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate (10.0 g, 38.0 mmol) and diethyl malonate (5.8 ml, 38.2 mmol) in ethanol (30 mL) at 0° C. was treated with a solution of NaOEt (13.5 mL, 21% in ethanol) over 10 minutes. The reaction was warmed to 25° C. and stirred for 18 hours. The reaction was re-cooled to 0° C. and treated with a solution of 4-bromobenzyl bromide (9.5 g, 38.0 mmol) in ethanol (40 mL), stirred at 50° C. for 3 hours, cooled to 0° C. and adjusted to neutral pH by addition of 4N HCl. The ethanol was removed under reduced pressure and the residue was partitioned between chloroform and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated to give the title compound (22.4 g), which was used without further purification.

reactant | tert-Butyl(1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate | 38.0 mmol, 10.0 g | O1[C@@H](C1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | diethyl malonate | 38.2 mmol, 5.8 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaOEt | 13.5 mL | CC[O-].[Na+]
reactant | 4-bromobenzyl bromide | 38.0 mmol, 9.5 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | HCl | 4N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl(5S)-3-(4-bromobenzyl)-5-{(1S)-1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}-2-oxotetrahydro-3-furancarboxylate | 22.4 g | BrC1=CC=C(CC2(C(O[C@@H](C2)[C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)C(=O)OCC)C=C1 | C27H32BrNO6
